US07781443B2
(2R,4S)-4-([3,5-bis(trifluoromethyl)benzyl]-{5-[(2,2-dimethyl-1,3-dioxolan-4-yl)methoxy]pyrimidin-2-yl})amino-2-ethyl-6-methoxy-3,4-dihydro-2H-[1,5]naphthyridine-1-carboxylic acid ethyl ester (147 mg) is dissolved in tetrahydrofuran (2 ml), then thereto is added 1N-hydrochloric acid (2 ml), and the mixture is stirred overnight. A saturated aqueous sodium hydrogen carbonate solution is added to the reaction solution and the mixture is extracted with ethyl acetate. The organic layer is washed with a saturated brine, dried over magnesium sulfate, and concentrated under reduced pressure. The resulting residue is purified by column chromatography (silica gel; hexane:ethyl acetate=3:2→3:7) to give (2R,4S)-4-{[3,5-bis(trifluoromethyl)benzyl]-[5-(2,3-dihydroxypropoxy)-pyrimidin-2-yl]}amino-2-ethyl-6-methoxy-3,4-dihydro-2H-[1,5]naphthyridine-1-carboxylic acid ethyl ester (72 mg). MS (m/z): 674 [M+H]+

reactant | (2R,4S)-4-([3,5-bis(trifluoromethyl)benzyl]-{5-[(2,2-dimethyl-1,3-dioxolan-4-yl)methoxy]pyrimidin-2-yl})amino-2-ethyl-6-methoxy-3,4-dihydro-2H-[1,5]naphthyridine-1-carboxylic acid ethyl ester | 147 mg | C(C)OC(=O)N1[C@@H](C[C@@H](C2=NC(=CC=C12)OC)NC1=NC=C(C(=N1)CC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)OCC1OC(OC1)(C)C)CC | C33H37F6N5O6
reactant | hydrochloric acid | 2 ml | Cl | ClH
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
product | (2R,4S)-4-{[3,5-bis(trifluoromethyl)benzyl]-[5-(2,3-dihydroxypropoxy)-pyrimidin-2-yl]}amino-2-ethyl-6-methoxy-3,4-dihydro-2H-[1,5]naphthyridine-1-carboxylic acid ethyl ester | 72 mg | C(C)OC(=O)N1[C@@H](C[C@@H](C2=NC(=CC=C12)OC)NC1=NC=C(C(=N1)CC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)OCC(CO)O)CC | C30H33F6N5O6
